US09403807B2
Step F: 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetic acid
To the mixture of tert-butyl 1-(4-chlorobenzyl)-6-fluoro-1H-indol-4-ylcarbamate (8 g, 0.021 mol) in THF (300 mL) was added dropwise BuLi (2.5 M, 34 mL, 0.084 mol) at −78° C. and the mixture was stirred for another 30 min at −78° C. An excess of dry ice was added and the solution was warmed slowly to room temperature. The resulting mixture was partitioned between ethyl acetate and saturated aqueous ammonium chloride. The aqueous layer was extracted with EA and washed with brine (100 mL), dried over sodium sulfate and concentrated in vacuo to afford the title compound (8 g, yield 89%). LC/MS m/z=363.1 [M-tBu+H]+.

reactant | tert-butyl 1-(4-chlorobenzyl)-6-fluoro-1H-indol-4-ylcarbamate | 0.021 mol, 8 g | ClC1=CC=C(CN2C=CC3=C(C=C(C=C23)F)NC(OC(C)(C)C)=O)C=C1 | C20H20ClFN2O2
reactant | BuLi | 0.084 mol, 2.5 M, 34 mL | [Li]CCCC
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetic acid | 8 g, yield 89% | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)O)C1=CC=C(C=C1)Cl | C21H20ClFN2O4
